US07482366B2
2-Ethoxy-3-trifluoromethyl-pyridine (900 mg, 4.71 mmol) and 1,3-dibromo-5,5-dimethylhydantoin (1.35 g, 4.71 mmol) were placed in a round-bottom flask. To this mixture was slowly added 10 mL trifluoroacetic acid. The mixture was stirred at ambient temperature for overnight. More 1,3-dibromo-5,5-dimethylhydantoin (540 mg, 1.9 mmol) was added and the reaction mixture was stirred at ambient temperature for another day. After the completion of the reaction, TFA solvent was evaporated in vacuo and the resulting residue was neutralized to pH 7 by the addition of saturated NaHCO3. The aqueous layer was extracted with dichloromethane three times and the combined extract was washed with brine, dried over sodium sulfate, and concentrated in vacuo to give a mixture of oil and white solid. The residue was redissolved into 20% EtOAc/Hexane, and the unsoluable white solid was filtered out. The filtrate was concentrated and then purified by column chromatography on silica gel (10% EtOAC/Hexane) to give 5-bromo-2-ethoxy-3-trifluoromethyl-pyridine as a colorless liquid (1.0 g, 79% yield). 1H-NMR (400 MHz, CDCl3): δ 1.41 (t, 3H, J=7.07), 4.46 (q, 2H, J=7.07), 7.94 (dd, 1H, J=0.51, J=2.53), 8.34 (dd, 1H, J=0.51, J=2.53).

reactant | 2-Ethoxy-3-trifluoromethyl-pyridine | 4.71 mmol, 900 mg | C(C)OC1=NC=CC=C1C(F)(F)F | C8H8F3NO
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 4.71 mmol, 1.35 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 1.9 mmol, 540 mg | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-bromo-2-ethoxy-3-trifluoromethyl-pyridine | 1.0 g, 79% yield | BrC=1C=C(C(=NC1)OCC)C(F)(F)F | C8H7BrF3NO
